US07067517B2
cis/trans-4-tert-Butyl-cyclohexanecarboxylic acid (4-hydroxy-phenyl)-amide
To a solution of 4-aminophenol (3.08 g, 28.2 mmol) in dichloromethane (50 ml) were added cis/trans-4-tert-butyl-cyclohexanecarbonyl chloride (11.43 g, 56.4 mmol) and pyridine (4.56 ml, 56.4 mmol), while cooling the reaction mixture in an ice bath. After the addition was completed, the cooling bath was removed and stirring was continued overnight at room temperature. The solvent was removed by evaporation and the residue was dissolved in THF (300 ml). 6N NaOH (aq, 33 ml) was added and the mixture was stirred at room temperature overnight. The organic phase was removed by evaporation. Water (200 ml) was added and the solid material was collected by filtration, washed with water, dried in vacuo at 40° C. and dissolved in methanol (100 ml). A solution of KOH (2.4 g) in methanol (50 ml) was added. After stirring for 2 h at room temperature water (200 ml) was added and the organic phase was removed by evaporation. The aqueous phase was acidified with 1 N HCl and extracted with ethyl acetate (3×300 ml). The combined organic phases were washed with saturated sodium bicarbonate, dried, filtered and evaporated, yielding a pink oil, which was dried in vacuo at 40° C. The solid material was crystallised from ethyl acetate/heptane yielding the title compound (2.03 g, 26%, pink crystals). From the first aqueous extract a second portion of product was isolated by extraction with ethyl acetate (3×250 ml). The combined organic phases were washed with water (400 ml), saturated sodium bicarbonate (2×400 ml), dried, filtered and evaporated, yielding a pink thick oil. Crystallisation from ethyl acetate/heptane yielded a further amount of title compound (2.75 g, 35%).

reactant | 4-aminophenol | 28.2 mmol, 3.08 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | trans-4-tert-butyl-cyclohexanecarbonyl chloride | 56.4 mmol, 11.43 g | C(C)(C)(C)[C@@H]1CC[C@H](CC1)C(=O)Cl | C11H19ClO
reactant | pyridine | 56.4 mmol, 4.56 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | trans-4-tert-Butyl-cyclohexanecarboxylic acid (4-hydroxy-phenyl)-amide | 2.75 g, 35% | OC1=CC=C(C=C1)NC(=O)[C@@H]1CC[C@H](CC1)C(C)(C)C | C17H25NO2
